US09079902B2
3-(3,5-Dimethylisoxazol-4-yl)-1-Methyl-N-(1,2,4-Thiadiazol-5-yl)-1H-Indole-6-Sulfonamide
The title compound was prepared in an analogous manner to that described in Example 28 using (3,5-dimethylisoxazol-4-yl)boronic acid and 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide, and the desired product, 3-(3,5-dimethylisoxazol-4-yl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide, was isolated as an off-white solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 2.13 (s, 3 H) 2.31 (s, 3 H) 3.89 (s, 3 H) 7.41-7.49 (m, 2 H) 7.64 (s, 1 H) 7.90-7.93 (m, 1 H) 7.98 (s, 1 H). m/z (ESI) 389.1 (M+H)+.

reactant | (3,5-dimethylisoxazol-4-yl)boronic acid | CC1=NOC(=C1B(O)O)C | C5H8BNO3
reactant | 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | BrC1=CN(C2=CC(=CC=C12)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)C | C20H19BrN4O4S2
product | 3-(3,5-dimethylisoxazol-4-yl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | CC1=NOC(=C1C1=CN(C2=CC(=CC=C12)S(=O)(=O)NC1=NC=NS1)C)C | C16H15N5O3S2
